US07465815B2
5-Bromo-3-(4-ethylphenyl)-4,6,7-trimethyl-1-benzofuran
A mixed solution of 5-bromo-4,6,7-trimethyl-1-benzofuran-3-yl trifluoromethanesulfonate obtained in Reference Example 261 (1.35 g, 3.49 mmol), 4-ethylphenyl boronic acid (523 mg, 3.49 mmol), tetrakis(triphenylphosphine)palladium(0) (81 mg, 0.07 mmol) in a 2 N aqueous sodium carbonate solution (4 mL)-ethanol (4 mL)-toluene (15 mL) was reacted under argon atmosphere at 80° C. for 5 hours. Water was added to the reaction solution, which was extracted with ethyl acetate. The combined organic layer was washed with a saturated brine, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure, the residue was purified by silica gel column chromatography (hexane) to obtain 1.10 g (yield 92%) of the title compound. Oily matter.

reactant | 5-bromo-4,6,7-trimethyl-1-benzofuran-3-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=COC2=C1C(=C(C(=C2C)C)Br)C)(F)F | C12H10BrF3O4S
reactant | 4-ethylphenyl boronic acid | 3.49 mmol, 523 mg | C(C)C1=CC=C(C=C1)B(O)O | C8H11BO2
reactant | sodium carbonate | 2 N, 4 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 4 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.07 mmol, 81 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | O | H2O
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Bromo-3-(4-ethylphenyl)-4,6,7-trimethyl-1-benzofuran | 1.10 g, yield 92% | BrC=1C(=C(C2=C(C(=CO2)C2=CC=C(C=C2)CC)C1C)C)C | C19H19BrO
